US05641796
To a solution of 72.7 g of alcohol product of Example 9A, Part A, 47.9 of 4-hydroxybenzaldehyde, 104 g triphenylphosphine and 450 mL of anhydrous THF at -5° C. was added 75 g of diethyl azodicarboxylate over a 20 minute period. The temperature was maintained at 0° C. The cooling bath was removed and the reaction mixture was stirred for 20 hours at 25° C. After the addition of 5 mL of 30% H2O2 the reaction mixture was diluted with 1.2 L of Et2O, washed with 1N NaOH and H2O and dried over Na2SO4. The solvent was removed and the residue was dissolved in 1 L of Et2O and cooled to 0° C. The solid which precipitated (Ph3PO) was removed by filtration and the filtrate was concentrated to 600 mL and cooled to 0° C. The precipitate was filtered and recrystallized twice from acetone/H2O to give 4-(2-(2-phenyl-4-oxazolyl)ethoxy)-benzaldehyde (28.9 g, mp 92°-97° C.). An additional 32.6 of product (total yield 61.5 g, 54%) was obtained from filtrates.

reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triphenylphosphine | 104 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 75 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | 450 mL | C1CCOC1 | C4H8O
product | 4-(2-(2-phenyl-4-oxazolyl)ethoxy)-benzaldehyde | 28.9 g | C1(=CC=CC=C1)C=1OC=C(N1)CCOC1=CC=C(C=O)C=C1 | C18H15NO3
